US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 5-benzyloxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (1.0 g) and [(4-dimethylaminophenyl)methyl](6-methoxypyridin-3-yl)amine (0.91 g) as starting materials, 5-benzyloxy-N-[(4-dimethylaminophenyl)methyl]-N-(6-methoxypyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (1.35 g) was obtained. By the reaction and treatment in the same manner as in Example 105 using this compound, N-[(4-dimethylaminophenyl)methyl]-5-hydroxy-N-(6-methoxypyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.34 g) was obtained.

reactant | 5-benzyloxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 1.0 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)O | C18H18O3
reactant | [(4-dimethylaminophenyl)methyl](6-methoxypyridin-3-yl)amine | 0.91 g | CN(C1=CC=C(C=C1)CNC=1C=NC(=CC1)OC)C | C15H19N3O
product | 5-benzyloxy-N-[(4-dimethylaminophenyl)methyl]-N-(6-methoxypyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 1.35 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(C=1C=NC(=CC1)OC)CC1=CC=C(C=C1)N(C)C | C33H35N3O3
